US07897607B2
3-(2,4-Dimethylphenyl)-5-(dipropylamino)-1-methylpyridin-2(1H)-one
To a solution containing 0.063 g (0.27 mmol) of 5-amino-3-(2,4-dimethylphenyl)-1-methylpyridin-2(1H)-one in 20 ml of dichloromethane was added 0.060 ml (0.83 mmol) of propionaldehyde followed by 0.20 g (0.94 mmol) of sodium triacetoxyborohydride under a nitrogen atmosphere. The reaction was allowed to stir at 25° C. overnight. The reaction was diluted with dichloromethane and washed with saturated sodium bicarbonate. The organic phase was dried over magnesium sulfate. Filtration, removal of solvent and purification of the residue via biotage eluting with ethyl acetate gave 0.088 g (100%) of product.

reactant | 5-amino-3-(2,4-dimethylphenyl)-1-methylpyridin-2(1H)-one | 0.27 mmol, 0.063 g | NC=1C=C(C(N(C1)C)=O)C1=C(C=C(C=C1)C)C | C14H16N2O
reactant | propionaldehyde | 0.83 mmol, 0.060 ml | C(CC)=O | C3H6O
reactant | sodium triacetoxyborohydride | 0.94 mmol, 0.20 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-(2,4-Dimethylphenyl)-5-(dipropylamino)-1-methylpyridin-2(1H)-one | 0.088 g, 100% | CC1=C(C=CC(=C1)C)C=1C(N(C=C(C1)N(CCC)CCC)C)=O | C20H28N2O
